US04011335
To 10 g. of 1,2-(methylenedioxy)-4-[(3,7,9-trimethyl-2,6-decadienyl)oxy]-benzene dissolved in 100 ml. of methylene chloride are added portionwise, while stirring and cooling with ice at 1°-5° C., 6.85 g. of 80% m-chloroperbenzoic acid and the mixture is stirred for a further 2 hours while cooling with ice. The mixture is subsequently diluted with 200 ml. of ether and washed successively with ice-cold 1-N aqueous sodium hydroxide, water and saturated aqueous sodium chloride solution, dried over sodium sulphate and evaporated. By chromatography on silica gel with hexane/ether (4:1 parts by volume), there is obtained pure 4-[(6,7-epoxy-3,7,9-trimethyl-2-decenyl)-oxy]-1,2-(methylenedioxy)-benzene of boiling point (bulb tube) 135°-140° C./0.02 mm Hg.; nD22 = 1.5168.

reactant | 1,2-(methylenedioxy)-4-[(3,7,9-trimethyl-2,6-decadienyl)oxy]-benzene | C1OC2=C(C=C(C=C2)OCC=C(CCC=C(CC(C)C)C)C)O1 | C20H28O3
reactant | m-chloroperbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4-[(6,7-epoxy-3,7,9-trimethyl-2-decenyl)-oxy]-1,2-(methylenedioxy)-benzene | O1C(CCC(=CCOC2=CC3=C(C=C2)OCO3)C)C1(CC(C)C)C | C20H28O4
